US05998436
Synthesis of 1-(6-amino-3,5-difluoro-4-methylpyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To a mixed solution of 2.5 ml of 4N hydrochloric acid and 2.5 ml of acetic acid was added all amount of the above described ethyl 8-chloro-1-[3,5-difluoro-6-(p-methoxybenzylamino)-4-methylpyridin-2-yl]-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate, and the mixture was heated under reflux with stirring for 3 hours and allowed to cool and stand. To the residue was added 10 ml of distilled water, and the solution was concentrated under reduced pressure. The procedure of adding 10 ml of ethanol and concentrating the solution under reduced pressure was repeated three times, and 6 ml of chloroform was added to the residue, and the mixture was heated under reflux with stirring for 1 hour and allowed to cool. The precipitate was collected by filtration, and washed with ethanol and diisopropylether successively to obtain 128 mg of the title compound as a colorless powder.

reactant | hydrochloric acid | 4N, 2.5 ml | Cl | ClH
reactant | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
reactant | ethyl 8-chloro-1-[3,5-difluoro-6-(p-methoxybenzylamino)-4-methylpyridin-2-yl]-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | ClC=1C(=C(C=C2C(C(=CN(C12)C1=NC(=C(C(=C1F)C)F)NCC1=CC=C(C=C1)OC)C(=O)OCC)=O)F)F | C26H20ClF4N3O4
solvent | water | 10 ml | O | H2O
product | 1-(6-amino-3,5-difluoro-4-methylpyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 128 mg | NC1=C(C(=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F)C)F | C16H8ClF4N3O3
